US07371863B2
To a stirred solution of isoxazolo[5,4-c]pyridin-3-ol (50.0 g, 367 mmol) in NMP (100 ml) was added benzyl bromide (75.4 g, 441 mmol) dropwise rapidly. The thick solution was stirred for 24 h. The mixture was then added slowly to acetone (1.5 L) with stirring, and the solution was seeded. Stirring was continued at room temperature for 30 min, and then for a further 1 h in an ice/water bath. The mixture was filtered, the residue was washed with acetone and then dried under vacuum to give 6-benzyl-3-hydroxy-isoxazolo[5,4-c]pyridin-6-ium bromide (94.1 g, 83%; HPLC: 91% pure) as a white crystalline solid.

reactant | isoxazolo[5,4-c]pyridin-3-ol | 367 mmol, 50.0 g | O1N=C(C=2C1=CN=CC2)O | C6H4N2O2
reactant | benzyl bromide | 441 mmol, 75.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetone | 1.5 L | CC(=O)C | C3H6O
solvent | NMP | 100 ml | CN1CCCC1=O | C5H9NO
product | 6-benzyl-3-hydroxy-isoxazolo[5,4-c]pyridin-6-ium bromide | 94.1 g | [Br-].C(C1=CC=CC=C1)[N+]=1C=C2C(=CC1)C(=NO2)O | InChI=1S/C13H10N2O2.BrH/c16-13-11-6-7-15(9-12(11)17-14-13)8-10-4-2-1-3-5-10;/h1-7,9H,8H2;1H
